Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])=[O:9],1.93821954242
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1],3.77697294988
[H:1][O:2][C:3]#[C:4][H:5].[O:6][H:7]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][H:7],-3.2363157584099995
[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7][C:9]([H:10])[H:11].[H:8],2.79723695838
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])([H:5])=[C:6]([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:1][O:2],2.79848733354
[H:1]/[C:2]([O:3][C:4]([H:5])=[C:6]([H:12])[H:13])=[C:11]\[C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]1[O:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13],-1.71696121475
[H:1][C:2][O:3][C:4][C:5](=[C:6][H:7])[O:8][H:9]>>[C:6][H:7].[H:1][C:2][O:3][C:4]#[C:5][O:8][H:9],4.61360447172
[C:12]([H:13])[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-8.60518887342
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7].[O:8][H:9]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][O:8][H:9],-6.26007945325
[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-6.31914181135
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[H:4],3.91104474203
[H:3].[O:1]=[C:2][O:4][H:5]>>[O:1]=[C:2]([H:3])[O:4][H:5],-4.22211231509
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[O:11][H:12]>>[H:7].[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:8](\[H:9])[C:10][O:11][H:12],3.0949870880000003
[C:5]([H:6])=[O:7].[O:1]([C:2]#[C:4][H:3])[H:8]>>[O:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[O:7][H:8],-1.7151101211700002
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[C:9]([H:10])[H:11].[O:7][H:8]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11],-2.49090431808
[O:1]=[C:2]([H:3])[H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-0.829318144971
[C:10]([H:11])([H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-1.3143055946100002
[O:1]=[C:2]([H:3])[C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:3].[O:1]=[C:2]=[C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],3.31431861587
[H:1][C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:8]([H:9])([H:14])[H:15].[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:10]([H:11])=[C:12][H:13],4.531137965259999
[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6].[O:7][C:8]#[C:9][H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10],-1.7023788510100002
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[H:10].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:7]([H:8])=[O:9],3.628688511630002
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]#[C:8][H:9]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-1.87609065096
[C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1]>>[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.96186347321
[C:2]#[C:3][O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.4361158439600015
[C:1]#[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9].[O:10][H:11],5.93051626399
[H:1][O:2].[O:3][H:4]>>[H:1][O:2][O:3][H:4],-4.72507621396
[C:1](/[C:2](=[C:5]/[O:6][H:7])[H:10])([H:4])([H:9])[H:11].[C:3]#[C:8]>>[C:1]#[C:2][C@:3]([H:4])([C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11],-3.72658919652
[C:3][H:4].[H:1][C:2][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-8.601741858330001
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:4],2.06558537981
[H:1][C:2]([H:3])[C@:4]1([H:5])[C:6]=[C:7]([H:8])[C:9]=[C:10]1[H:11]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]#[C:7][H:8])[C:10](=[C:9])[H:11],0.628320089911
